US09034866B2
Synthesis of 10-((1-hydroxycyclohexyl)ethynyl)-N3-methyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide
Similar to as described in General Procedure E, reaction of 10-bromo-N3-methyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide with 1-ethynylcyclohexanol gave the titled compound. M+H=409.2.

reactant | 10-bromo-N3-methyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C1 | C14H13BrN4O3
reactant | 1-ethynylcyclohexanol | C(#C)C1(CCCCC1)O | C8H12O
product | 10-((1-hydroxycyclohexyl)ethynyl)-N3-methyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | OC1(CCCCC1)C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C1 | C22H24N4O4
